US04144338
A. 2-Amino-4-methyl-6-benzyloxypyrimidine
2-Amino-4-methyl-6-hydroxypyrimidine (62.5 g., 0.50 mole) is dissolved in 500 ml of dimethylformamide and sodium hydride (0.5 mole) is added over a 1 hour period under a nitrogen atmosphere. The mixture is heated at 75° C. for 11/2 hours. Benzyl chloride (69.3 g., 0.55 moles) is then added over 15 minutes and the mixture is heated at 90° C. and stirred for 11/2 hours. After cooling, the reaction mixture is filtered and concentrated under vacuum to an oil from which 2-amino-4-methyl-6-benzyloxypyrimidine melting at 108°-109.5° C. is obtained by crystallization from n-butyl chloride.

reactant | 2-Amino-4-methyl-6-hydroxypyrimidine | 0.50 mole, 62.5 g | NC1=NC(=CC(=N1)C)O | C5H7N3O
reactant | sodium hydride | 0.5 mole | [H-].[Na+]
reactant | Benzyl chloride | 0.55 moles, 69.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-methyl-6-benzyloxypyrimidine | NC1=NC(=CC(=N1)C)OCC1=CC=CC=C1 | C12H13N3O
